US07157488B2
N-(2-(5-Hydroxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine
Combine N-(2-(5-benzyloxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine hydrochloride (295 mg, 0.6 mmol) and 25 mL EtOH and treat with 0.3 mL 5 N HCl and 300 mg 5% Pd/C and hydrogenate at atmospheric pressure overnight. Filter the reaction through a pad of celite and concentrate to dryness then chromatograph on silica gel to give the title compound: ISMS 365 (M+1); 1H NMR (DMSO-d6) 10.6 (bs, 1H), 9.4 (bs, 2H), 8.75 (s, 1H), 7.45–6.6 (m, 7H), 4.9–4.7 (m, 2H), 4.2 (bs, 2H), 3.2–2.9 (m, 4H).

reactant | N-(2-(5-benzyloxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine hydrochloride | 0.6 mmol, 295 mg | Cl.C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCC(F)(F)F
reactant | HCl | 5 N, 0.3 mL | Cl | ClH
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | EtOH | 25 mL | CCO | C2H6O
product | N-(2-(5-Hydroxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine | OC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCC(F)(F)F | C19H19F3N2O2
